US08071768B2
4-[6-(3-Hydroxy-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
A mixture of 4-(6-iodo-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide (1.056 g, 2.05 mmol), as prepared in Example 11d, CuI (3.9 mg, 20.5 μmol), trans-PdCl2[P(C6H5)3]2 (26.8 mg, 38.2 μmol), propargyl alcohol (139 μL, 2.36 mmol), and diethylamine (3.4 mL) was flushed with a stream of argon for 30 s, and then quickly sealed and vigorously stirred at rt under argon for 5 h. The resulting dark brown bilayer was concentrated under reduced pressure at rt, dissolved in DCM (10 mL), and vigorously shaken with 0.75 M EDTA (tetrasodium salt) (1×2 mL). The light green aqueous layer was extracted with DCM (1×10 mL), the organic layers were combined, dried (Na2SO4), and concentrated to give a beige foam soluble in 9:1 EtOAc/DCM (˜5 mL). Flash chromatography (1:9 hex/EtOAc→EtOAc) provided the title compound as a yellow foam (825 mg, 91%). 1H-NMR (300 MHz, CDCl3) δ 9.24 (s, 1H), 8.26 (d, 1H), 8.01 (d, 1H), 7.87 (dd, 1H), 7.25 (m, 2H), 6.85 (m, 2H), 6.33 (br s, 1H), 4.59 (d, 2H), 4.48 (heptet, 1H), 4.32-4.23 (m, 2H), 3.71 (m, 1H), 3.22-3.10 (m, 2H), 2.21-1.94 (m, 5H), 1.32 (d, 6H). LC/MS (ESI): calcd mass 444.2, found 445.2 (MH)+.

reactant | 4-(6-iodo-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 2.05 mmol, 1.056 g | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)I | C23H25IN4O2
reactant | propargyl alcohol | 2.36 mmol, 139 μL | C(C#C)O | C3H4O
reactant | diethylamine | 3.4 mL | C(C)NCC | C4H11N
catalyst | CuI | 20.5 μmol, 3.9 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[6-(3-Hydroxy-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 825 mg, 91% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)C#CCO | C26H28N4O3
